US07671226B2
To a solution of 2-(2,3,4,5-tetramethylcyclopentadienyl)benzyloxytitanium bis(dimethylamide) (0.84 g, 3.1 mmol) in pentane (15.2 mL) was added dropwise a solution of trimethylchlorosilane (3.67 g, 33.8 mmol) in pentane (5.0 mL) at 0° C. The mixture was stirred at room temperature for 15 hrs. 2-(2,3,4,5-Tetramethylcyclopentadienyl)benzyloxytitanium dichloride (1.00 g, yield 94.3%) was obtained as an yellow solid.

reactant | 2-(2,3,4,5-tetramethylcyclopentadienyl)benzyloxytitanium bis(dimethylamide) | 3.1 mmol, 0.84 g | C[N-]C.C[N-]C.CC=1C(C(=C(C1C)C)C)C1=C(CO[Ti+2])C=CC=C1
reactant | trimethylchlorosilane | 33.8 mmol, 3.67 g | C[Si](Cl)(C)C | C3H9ClSi
solvent | pentane | 15.2 mL | CCCCC | C5H12
solvent | pentane | 5.0 mL | CCCCC | C5H12
product | 2-(2,3,4,5-Tetramethylcyclopentadienyl)benzyloxytitanium dichloride | 1.00 g, yield 94.3% | [Cl-].[Cl-].CC=1C(C(=C(C1C)C)C)C1=C(CO[Ti+2])C=CC=C1 | InChI=1S/C16H19O.2ClH.Ti/c1-10-11(2)13(4)16(12(10)3)15-8-6-5-7-14(15)9-17;;;/h5-8,16H,9H2,1-4H3;2*1H;/q-1;;;+3/p-2
